US06582351B1
To a solution of 3-amino-4-(trans-4-hydroxycyclohexylamino)benzotrifluoride (300 mg) in N,N-dimethylformamide (3 mL) was added 1,1′-thiocarbonyldiimidazole (234 mg), and the mixture was stirred at room temperature under nitrogen atmosphere for 15 hours. Water was added to the mixture, and the resulting precipitate was collected by filtration. The obtained solid was washed successively with water and diethyl ether to give 1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-thione (242.8 mg) as a pale brown solid.

reactant | 3-amino-4-(trans-4-hydroxycyclohexylamino)benzotrifluoride | 300 mg | NC=1C=C(C=CC1N[C@@H]1CC[C@H](CC1)O)C(F)(F)F | C13H17F3N2O
reactant | 1,1′-thiocarbonyldiimidazole | 234 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-thione | 242.8 mg | O[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=S | C14H15F3N2OS
